US04001419
A solution of xanthene (18.2 g.) in dimethyl sulphoxide (150 ml.) is added dropwise over 20 minutes at room temperature to a solution of sodium methylsulphinylmethide [prepared in the usual way from sodium hydride (12 g. of a 60% dispersion in mineral oil) and dimethyl sulphoxide (150 ml.)] with stirring in an atmosphere of nitrogen. The blood-red mixture is stirred at room temperature for a further 30 minutes, cooled to 10° C., and 2-chloroethyl vinyl ether (21.3 g.) is then added dropwise during 30 minutes. Water (750 ml.) is added to the now colourless mixture, and the mixture is extracted three times with ether. The combined ether extracts are dried over MgSO4 and evaporated to dryness. The residue of 9,9-bis(2'-vinyloxyethyl)xanthene (28.0 g.) is dissolved in acetone (150 ml.) and treated with excess Jones reagent (chromic acid in acetone) at 10° C. Methanol is then added, and the solvent is evaporated. To the residue water is added, and the mixture is extracted three times with ethyl acetate. The combined extracts are washed with saturated sodium hydrogen carbonate solution, then with water, dried over MgSO4 and evaporated to dryness. The solid residue is recrystallised from ethanol to give xanthene-9-spiro-4'-tetrahydropyran-2'-one, m.p. 156°-159° C.

reactant | xanthene | 18.2 g | C1=CC=CC=2OC3=CC=CC=C3CC12 | C13H10O
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloroethyl vinyl ether | 21.3 g | C(=C)OCCCl | C4H7ClO
reactant | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
reactant | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
solvent | Water | 750 ml | O | H2O
product | xanthene-9-spiro-4'-tetrahydropyran-2'-one | O1C(CC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12)=O | C17H14O3
